US06166037
1-((Adamant-1-yl)methyl)-3-(RS)-((4-phenyl)piperidin-1-yl)methyl-4-(SR)-phenylpyrrolidine
To a solution of 1-(1-adamantanecarbonyl)-3-(RS)-((4-phenyl)piperidin-1-yl)methyl-4-(SR)-phenylpyrrolidine (10 mg, 0.021 mmol) in 2 mL of THF was added lithium aluminum hydride (2 mg, 0.042 mmol). The reaction was heated to reflux. After 2 hours the reaction was quenched with H2O (0.5 mL), 15% NaOH solution (0.5 mL), H2O (1.0 mL) and diluted with a saturated solution of Rochelle salts (50 mL) and CH2Cl2 (50 mL). After stirring for 1 hour the mixture was extracted with CH2Cl2 (3×50 mL). The combined organic extracts were washed with brine, dried (Na2SO4), and concentrated in vacuo to yield 9 mg of the title compound. Mass Spectrum (NH3 -CI): 469 (M+1).

reactant | 1-(1-adamantanecarbonyl)-3-(RS)-((4-phenyl)piperidin-1-yl)methyl-4-(SR)-phenylpyrrolidine | 0.021 mmol, 10 mg | C12(CC3CC(CC(C1)C3)C2)C(=O)N2CC(C(C2)C2=CC=CC=C2)CN2CCC(CC2)C2=CC=CC=C2 | C33H42N2O
reactant | lithium aluminum hydride | 0.042 mmol, 2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 1-((Adamant-1-yl)methyl)-3-(RS)-((4-phenyl)piperidin-1-yl)methyl-4-(SR)-phenylpyrrolidine | 9 mg | C12(CC3CC(CC(C1)C3)C2)CN2CC(C(C2)C2=CC=CC=C2)CN2CCC(CC2)C2=CC=CC=C2 | C33H44N2
